US04082892
The 2-methyl-4-ethyl-4-hydroxymethyl-2-oxazoline is reacted with butyric acid in a 1:1 molar ratio following the method of Purcell to produce 2-methyl-4-ethyl-4-butyryloxymethyl-2-oxazoline.

reactant | 2-methyl-4-ethyl-4-hydroxymethyl-2-oxazoline | CC=1OCC(N1)(CO)CC | C7H13NO2
reactant | butyric acid | C(CCC)(=O)O | C4H8O2
product | 2-methyl-4-ethyl-4-butyryloxymethyl-2-oxazoline | CC=1OCC(N1)(COC(CCC)=O)CC | C11H19NO3
